US07851463B2
50.4 4-Bromo-N-[2-(1-propyl-pyrrolidin-3-yl)-pyrimidin-5-yl]benzenesulfonamide
The crude 2-(1-propyl-pyrrolidin-3-yl)-pyrimidin-5-ylamine (about 1.11 mmol) was dissolved in CH2Cl2:pyridine, 9:1 (50 ml) and 4-bromobenzensulfonyl chloride (566 mg, 2.21 mmol) was added. After stirring at room temperature overnight, the reaction mixture was filtered and concentrated. The raw material was then dissolved in a solution of EtONa (400 mg, 5.87 mmol) in EtOH (35 ml) and the resulting solution was heated under reflux for 1 h. Silica gel (1 g) was next added to the mixture and the solvent removed under reduced pressure. Following flash column chromatography (CH2Cl2:methanol, 9:1) provides the title compound (100 mg, 21% for four steps) as a yellow gum.

reactant | 2-(1-propyl-pyrrolidin-3-yl)-pyrimidin-5-ylamine | about 1.11 mmol | C(CC)N1CC(CC1)C1=NC=C(C=N1)N | C11H18N4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-bromobenzensulfonyl chloride | 2.21 mmol, 566 mg | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | EtONa | 5.87 mmol, 400 mg | CC[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOH | 35 ml | CCO | C2H6O
product | 4-Bromo-N-[2-(1-propyl-pyrrolidin-3-yl)-pyrimidin-5-yl]benzenesulfonamide | 100 mg, 21% | BrC1=CC=C(C=C1)S(=O)(=O)NC=1C=NC(=NC1)C1CN(CC1)CCC | C17H21BrN4O2S
